US06713474B2
A solution of 4-chloro-5-iodo-7H-pyrrolo[2,3-d]pyrimidine (6.48 g, 21.78 mmol) in tetrahydrofuran (200 mL) at 0° C. under a nitrogen atmosphere was treated with tert-butyl 4-hydroxy-1-piperidinecarboxylate (13.147 g, 65.33 mmol) and triphenylphosphine (11.43 g, 43.56 mmol) and stirred for 30 minutes. Diethylazodicarboxyate (7.61 g, 43.56 mmol) was added drop-wise over 15 minutes to the reaction solution. The ice bath was removed after 15 minutes, and the reaction mixture was allowed to stir over night. The solvent was evaporated under reduced pressure, and then the yellow gummy solid dissolved in dichloromethane. The solid precipitated was filtered and discarded. The filtrate was evaporated under reduced pressure. Recrystallization from ethyl acetate/heptane yielded 4.82 g (47%) of tert-butyl 4-(4-chloro-5-iodo-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-1-piperidinecarboxylate. 1H NMR (DMSO-d6, 400 MHz) 8.64(s, 1H), 8.20 (s, 1H), 4.89-4.84(m, 1H), 4.13-4.10 (m, 2H), 3.00-2.80(br s, 2H), 2.01-1.88 (m, 4H), 1.43(s, 9H). Waters 2690 Alliance HPLC (Symmetry Shield RP18 3.5 m, 2.1×50 mm; 5%-95% acetonitrile-0.1 M ammonium acetate over 15 min, 0.5 mL/min) Rt 7.825 minutes.

reactant | 4-chloro-5-iodo-7H-pyrrolo[2,3-d]pyrimidine | 21.78 mmol, 6.48 g | ClC=1C2=C(N=CN1)NC=C2I | C6H3ClIN3
reactant | tert-butyl 4-hydroxy-1-piperidinecarboxylate | 65.33 mmol, 13.147 g | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | triphenylphosphine | 43.56 mmol, 11.43 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diethylazodicarboxyate | 43.56 mmol, 7.61 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | tert-butyl 4-(4-chloro-5-iodo-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-1-piperidinecarboxylate | 4.82 g, 47% | ClC=1C2=C(N=CN1)N(C=C2I)C2CCN(CC2)C(=O)OC(C)(C)C | C16H20ClIN4O2
